US09387200B2
b) 7-(2,2-Dimethyl-propionyloxy)-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
A mixture of 7-Hydroxy-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester (1.15 mmol), trimethylacetyl chloride (1.39 mmol), Et3N (1.74 mmol), and CH2Cl2 (5.7 mL) was stirred at r.t. for 2 h. The mixture was then quenched with water and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel. Eluting with 0-20% EtOAc/CH2Cl2 gave the title compound (392.8 mg) as a colorless oil: MS (m/z) 427.2 (M+1).

reactant | 7-Hydroxy-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 1.15 mmol | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)C)O | C18H18N2O3S
reactant | trimethylacetyl chloride | 1.39 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | Et3N | 1.74 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5.7 mL | C(Cl)Cl | CH2Cl2
product | 7-(2,2-Dimethyl-propionyloxy)-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 392.8 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)C)OC(C(C)(C)C)=O | C23H26N2O4S
